Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Microwave ablation of lung nodule
 
Major Surgical or Invasive Procedure:
CT Interventional procedure (Microwave ablation) ___
Chest tube placement for PTX ___ (removed ___

 
History of Present Illness:
Mr ___ is a ___ year-old man with PMH of HTN, HLD, stroke, Hep
B, sarcoidosis, who is now s/p microwave ablation of left lung
nodule on ___, c/b pneumothorax s/p placement of L chest tube,
who has been transferred from the PACU to the medicine floor, 
for
chest tube management and overnight observation.

Mr ___ presented to the hospital for microwave ablation by ___
of a suspicious left upper lobe nodule that had been followed by
his primary provider, Dr. ___, on a regular basis for
the past 4 months, and was noted to have increased in size to
11x5mm and was concerning for adenocarcinoma. During the
procedure, the patient received 700cc IVF and the EBL was 2cc.
The procedure was complicated by a pneumothorax of the left 
lung.
CXR revealed a small left pneumothorax and mild left apical
bleeding, which were expected post-procedure consequences. He
underwent placement of a left chest tube, with resolution of
symptoms. He was placed on 3L NC and then weaned to room air.
Vital signs remained stable throughout. He was transferred to 
the
medical floor for overnight observation and likely discharge in
the morning if chest tube could be removed.

Notably, the patient was noted to have a severe anemia (Hgb 6.3,
Hct 23.3) during preadmission labs for his ablation procedure, 
on
___. He had not had lightheadedness, dizziness, abnormal 
fatigue
or any abnormal bleeding prior to that. On ___, he had repeat
labs revealing Hgb 6.6, Hct 23.8, (MCV 63, RDW 24.7) WBC 6.1, 
Plt
342, ___ 11.6, PTT 26.9. Iron studies notable for Iron 17 (nl
45-160), ferritin 15 (nl ___, TRF 390 (nl 200-360) and TIBC
507 (260-470), which were consistent with iron deficiency 
anemia.
CMP was unremarkable except for Ca ___, and LFTs were normal.
During a visit with his primary provider, Dr. ___, 
the
patient denied any unusual bleeding, any bloody noses, blood 
from
his ears or any excessive bleeding from his gums, black stools 
or
blood in his stools when he wipes, dark urine or issues with
urination.  He had no abdominal pain, nausea, vomiting, chest
pain or shortness of breath. He endorsed "okay appetite", but 
had
lost almost 4-pound in ___ months unintentionally. Dr. ___ a fecal occult blood test on ___ which was negative.
The patient's last recorded CBC previously to this set of
encounters was from ___, with Hgb 11.9 and normal iron
studies.

Vitals just prior to his transfer were T 97.8, BP 160/80, HR 50,
RR 20 and O2 sat of 100% on RA. On arrival to the floor after
transfer from the PACU, the patient was stable, in no acute
distress, and was lying comfortably in bed. He denied
SOB/CP/cough. He endorsed mild discomfort around the site of the
chest tube. He also denied lightheadedness, dizziness and
fatigue.

 
Past Medical History:
-Hepatitis B (HBcAg positive, HBsAb positive, HBsAg negative)
-HTN
-HLD
-CVA ___
-sarcoidosis (never treated)
 
Social History:
___
Family History:
Mother passed away when he was age ___.  She was on AC and got
stuck by a nail and ended up hemorrhaging and dying the 
following
day in the hospital. Father died at age ___ of lung cancer in
___.  He has three brothers and two are in good health.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=====================
VS: T 97.8, BP 160/80, HR 50, RR 20, O2 SAT 100 RA
GEN: thin-appearing man in NAD, lying comfortably in bed
HEENT: PERRLA, EOMI, MMM, dentures in place, OC clear
NECK: supple, no LAD. IJV noted to fill up with deep breaths
CV: Bradycardic, irregular rhythm. No m/r/g. JVP noted 1cm above
R clavicle. Radial pulses 2+ b/l
CHEST: telemetry leads and L pig-tail chest tube which is 
clamped
LUNGS: Decreased air entry b/l, CTAB.
ABD: soft, NT, ND.
EXT: no edema or cyanosis. Minimal clubbing on L hand
NEURO: AAOx3. CNs ___ intact.  

DISCHARGE PHYSICAL EXAM
======================
Vitals: 98.7 134/76 64 18 98% RA
General: alert, oriented, no acute distress
Eyes:  Sclera anicteric
HEENT: MMM, oropharynx clear  
Neck: supple, JVP 2cm above clavicle at 90degrees.
Resp: diminished breath sounds on inspiration throughout, no
wheezes, rales, ronchi, no increased work of breathing. s/p CT
removal. 
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
GI: soft, non-tender, non-distended, bowel sounds present, no
rebound tenderness or guarding, no organomegaly  
MSK: warm, well perfused.
Neuro: Face symmetric and motor function grossly normal.
 
Pertinent Results:
LABS ON ADMISSION
================
___ 11:35AM BLOOD Hct-22.6*
___ 07:20AM BLOOD WBC-6.9 RBC-3.46* Hgb-6.1* Hct-21.9* 
MCV-63* MCH-17.6* MCHC-27.9* RDW-24.2* RDWSD-52.1* Plt ___
___ 07:20AM BLOOD ___ PTT-25.7 ___
___ 07:20AM BLOOD Plt ___
___ 07:20AM BLOOD Glucose-95 UreaN-13 Creat-0.9 Na-139 
K-4.4 Cl-104 HCO3-22 AnGap-13
___ 07:20AM BLOOD ALT-7 AST-19 LD(LDH)-223 AlkPhos-57 
TotBili-0.5
___ 07:20AM BLOOD Albumin-3.9 Calcium-9.3 Phos-3.4 Mg-1.7
___ 07:20AM BLOOD Hapto-80

LABS ON DISCHARGE
================
___ 05:47AM BLOOD WBC-6.6 RBC-3.66* Hgb-6.7* Hct-23.7* 
MCV-65* MCH-18.3* MCHC-28.3* RDW-25.2* RDWSD-56.6* Plt ___
___ 05:47AM BLOOD Plt ___

MICRO:
None

IMAGING:

___ CT interventional procedure 
Final Report
RADIATION DOSE: Total DLP 505 mGycm.
PROCEDURE DETAILS:
Following explanation of the risks, benefits and alternatives to 
the
procedure, written informed consent was obtained from the 
patient. The patient
was then brought to the computed tomography suite and placed 
supine on the
imaging table. General anesthesia was induced by the 
anesthesiologist.
Following pre ablation noncontrast CT of the chest and 
localization of the
left upper lobe pulmonary nodule, the skin was marked and draped 
in the usual
sterile fashion.
Under CT fluoroscopy, a cool tip single microwave ablation probe 
(16 gauge/15
cm) was advanced through the intercostal space until the tip of 
the probe was
just beyond the expected location of the left upper lobe 
pulmonary nodule.
Microwave ablation was performed for a total of 3 minutes at 20 
watts.
Postprocedure chest computed tomography demonstrated post 
treatment changes in
the left upper lobe pulmonary nodule and a large left-sided 
pneumothorax.
Subsequently left-sided 8 ___ pleural pigtail catheter was 
inserted and
connected to the vacuum device. The skin was then cleaned and a 
dry sterile
dressing was applied. The patient was awakened from general 
anesthesia without
incident. The patient was transferred to the post-anesthesia 
care unit
for further monitoring and was able to maintain adequate O2 
saturation on room
air.
FINDINGS: 
Preprocedure non contrast chest CT showed a 0.7 x 0.7 cm left 
upper lobe
pulmonary nodule.  Postprocedure chest computed tomography 
demonstrated post
treatment changes in left upper lobe pulmonary nodule and a 
large left-sided
pneumothorax. Follow-up chest x-rays demonstrated interval 
decrease in size of
left-sided pneumothorax.
IMPRESSION: 
Microwave ablation of left upper lobe lung nodule as described.

___ Chest portable AP 4:04pm
IMPRESSION: 
Small left pneumothorax and mild left apical bleeding, expected 
post procedure
consequences.

___ Chest portable AP 7:26pm
IMPRESSION: 
Heart size is top-normal.  Mediastinum is stable.  Pigtail 
catheter is
demonstrated on the left.  There is small left apical 
pneumothorax there is
minimal interval increase in the pneumothorax.  Right apical 
opacity is
similar to previous examination.

___ Chest portable AP 8:06am
IMPRESSION: 
Small left apical pneumothorax is decreased in size.

___ Chest portable AP 1:51pm
IMPRESSION: 
Increased pneumothorax, most prominently seen in the 
cardiophrenic sulcus.

___ Chest AP 4:46pm
IMPRESSION: 
Lungs are clear.  Heart size is normal.  There is no pleural 
effusion.  No
pneumothorax is seen

 
 
Brief Hospital Course:
SUMMARY
========
Mr. ___ is a ___ year-old man with PMH of HTN, HLD, stroke, Hep 
B, sarcoidosis, iron deficiency anemia who is now s/p microwave 
ablation of left lung nodule on ___, complicated by 
pneumothorax s/p placement of L chest tube. He was transferred 
to medicine in stable condition for chest tube removal and 
overnight observation. He was given 1 unit of pRBC and PO iron 
for his anemia. He developed urinary retention overnight that 
resolved in the morning. 

ACTIVE ISSUES
=============
# Apical LUL Pneumothorax:
Complication from microwave ablation of L upper lobe nodule. S/p 
L chest tube insertion. ___ CXR showed resolution of 
pneumothorax and the chest tube was removed. Repeat CXR showed 
possible basilar PTX, a subsequent PA/lateral was obtained, 
which showed no pneumothorax. ___ reviewed imaging and were 
comfortable with discharge. On the day of discharge, the patient 
had stable vital signs and O2 saturation > 95% on RA, denying 
dyspnea/cough. Patient was written for oxycodone 2.5mg q4h PRN 
while inpatient, no ongoing pain issues on discharge. Of note, 
patient noted to have poor airway movement on auscultation. 
Patient will follow-up with interventional radiologist and his 
PCP within the next week. 

# Left upper lobe nodule 
Followed by his primary provider, Dr. ___, on a 
regular basis, and noted to have increased in size to 11x5mm and 
to be concerning for adenocarcinoma, s/p microwave ablation 
___. The patient has a follow up appointment with his PCP ___ 
___ and ___ on ___.

# Anemia: 
Severe anemia with Hgb 6.6 on pre-admission labs, decreased from 
11.9 in ___. MCV and iron studies are consistent with iron 
deficiency anemia. The patient has no SOB, lightheadedness, 
chest pain or dizziness, and has no evidence of active bleeding, 
denying bloody or dark stools and bleeding anywhere else, 
suggesting that this is likely a chronically worsening anemia. 
FOBT by Dr ___ on ___ was negative, and last colonoscopy 
appears to have been in ___ (___) with no abnormalities found. 
Hgb electrophoresis in the past was normal, ruling out 
hemoglobinopathies. Reticulocyte index hypoproliferative. 
Underlying anemia of chronic disease in addition to severe iron 
deficiency anemia cannot be ruled out, especially given 
suspicion for cancerous lung nodule and h/o untreated 
sarcoidosis. Normal haptoglobin/LDH; not likely to have 
hemolysis contributing. The patient was given 1 unit of pRBCs 
and continued on PO iron. Hb 6.7 on day of discharge. 

# Vitamin D deficiency: 
26 on ___. Will recommend considering starting PO Vitamin 
D, though mildly hypercalcemic while inpatient.

# Urinary retention
The patient was straight cath'd overnight ___ for post-op 
urinary retention. He was able to urinate on his own in the AM 
___, no ongoing issues with retention. 

CHRONIC ISSUES
===============

# Cardiovascular history
- Home Plavix 75mg PO daily was held for the procedure and 
resumed on ___.

# HTN 
- Home lisinopril 30mg daily was continued.

# HLD 
- Home atorvastatin 40mg daily was continued.

TRANSITIONAL ISSUES
===================
[] Hb 6.7 on day of discharge
[] Consider repeat CXR at next PCP appointment to ensure 
resolution of PTX
[] ___ follow-up
[] Consider starting PO Vitamin D, recheck Ca level
[] Consider PFTs for chronic lung disease (if not already 
evaluated)
[] Encourage patient to abstain from tobacco use (he says he has 
intermittently used nicotine patch at home)

CORE MEASURES: 
# Communication: ___ (___) 
# Code: Full (confirmed) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QHS 
2. Clopidogrel 75 mg PO DAILY 
3. Lisinopril 30 mg PO DAILY 
4. Ferrous Sulfate 325 mg PO BID 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QHS  
2.  Clopidogrel 75 mg PO DAILY  
3.  Ferrous Sulfate 325 mg PO BID  
4.  Lisinopril 30 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Lung nodule

SECONDARY DIAGNOSES
===================
Iron deficiency anemia
Pneumothorax
Urinary retention

 
Discharge Condition:
Mental status: alert and oriented
Ambulatory status: able to ambulate independently

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

Why was I admitted to the hospital?
===================================
You were admitted to the hospital for treatment of a lung nodule 
with microwave ablation. 

What happened while I was in the hospital?
==========================================
You were treated with microwave ablation on ___. A small 
air pocket (pneumothorax) and mild bleeding developed during the 
procedure, which was treated with a chest tube. Overnight you 
had difficulty urinating, so you were briefly catheterized, but 
recovered your urinary function the next morning. You had 
another chest x-ray prior to discharge and after the removal of 
the chest tube, which showed improvement in the pneumothorax.

What should I do I do when I leave the hospital?
================================================
Please take your medications as listed in the discharge summary 
and follow up at the listed appointments.

Thank you for allowing us to be involved in your care, and we 
wish you all the best! 

Sincerely,

Your ___ team. 

 
Followup Instructions:
___